US07071175B1
To a solution of 2-{1-[6-(2,2-dimethyl-propionylamino)-pyridin-3-yl]-butyl}-malonic acid monoethyl ester (712 mg, 1.95 mmol) in THF (6.5 mL) at 0° C. formaldehyde (37% in water, 0.3 mL) was added within 5 min. Stirring was continued for 10 min, then piperidine (0.26 mL, 2.63 mmol) was added dropwise within 10 min. The mixture was allowed to warm up overnight to room temperature. After 14 h the mixture was concentrated under reduced pressure to one third of its volume, then ether and water were added (15 mL each). After 2 min vigorous stirring the layers were separated, the aqueous was extracted with ether and the combined organic layers were washed with water, 4% citric acid, water and brine. Drying and concentration under reduced pressure gave 2-{1-[6-(2,2-dimethyl-propionylamino)-pyridin-3-yl]-butyl}-acrylic acid ethyl ester (550 mg, 85%) as a colourless solid.

reactant | 2-{1-[6-(2,2-dimethyl-propionylamino)-pyridin-3-yl]-butyl}-malonic acid monoethyl ester | 1.95 mmol, 712 mg | C(C)OC(C(C(=O)O)C(CCC)C=1C=NC(=CC1)NC(C(C)(C)C)=O)=O | C19H28N2O5
reactant | formaldehyde | 0.3 mL | C=O | CH2O
reactant | piperidine | 2.63 mmol, 0.26 mL | N1CCCCC1 | C5H11N
solvent | THF | 6.5 mL | C1CCOC1 | C4H8O
product | 2-{1-[6-(2,2-dimethyl-propionylamino)-pyridin-3-yl]-butyl}-acrylic acid ethyl ester | 550 mg, 85% | C(C)OC(C(=C)C(CCC)C=1C=NC(=CC1)NC(C(C)(C)C)=O)=O | C19H28N2O3
